US05153210
A mixture of 4,5-dihydro-6-(4-acetonyloxyphenyl)3(2H)-pyridazinone (0.3 g) and 2-hydroxy-2-(3-chlorophenyl) ethanamine carbonate (0.26 g) in dry benzene (80 ml) was heated under reflux, with azeotropic removal of water, for 3 hr. The solvent was evaporated and the residue dissolved in methanol (80 ml) and treated with sodium cyanoborohydride (0.5 g). After 18 hr. the methanol was evaporated and the residue partitioned between ethylacetate and brine. The organic phase was washed with water, dried (MgSO4) and evaporated to a gum which was chromatographed on silica gel. Elution with methanol-chloroform (4:96) gave 6-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyloxy]-phenyl]-4,5-dihydro-3(2H)-pyridazinone as a white crystalline solid, m.p.t. 140°-158° C., as a 1:1 mixture of diastereoisomers.

reactant | 4,5-dihydro-6-(4-acetonyloxyphenyl)3(2H)-pyridazinone | 0.3 g | C(C(=O)C)OC1=CC=C(C=C1)C=1CCC(NN1)=O | C13H14N2O3
reactant | 2-hydroxy-2-(3-chlorophenyl) ethanamine carbonate | 0.26 g | C(O)(O)=O.OC(CN)C1=CC(=CC=C1)Cl
reactant | water | O | H2O
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 6-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyloxy]-phenyl]-4,5-dihydro-3(2H)-pyridazinone | ClC=1C=C(C(CNC(COC2=CC=C(C=C2)C=2CCC(NN2)=O)C)O)C=CC1 | C21H24ClN3O3
